* DIP switch 3
* jjt 20/6/2002: created
*
*             Switch connections:
*             sw1
*             |  |  sw2
*             |  |  |  |  sw3
*             |  |  |  |  |  |
*             |  |  |  |  |  |
.subckt dpsw3 1  2  4  5  7  8 
+ PARAMS: STATE1=0 STATE2=0 STATE3=0 RON=1m ROFF=100E6
*
V1 3 0 {STATE1}
V2 6 0 {STATE2}
V3 9 0 {STATE3}
*
SDIP1 1 2 3 0 DIPMOD
SDIP2 4 5 6 0 DIPMOD
SDIP3 7 8 9 0 DIPMOD
*
.MODEL DIPMOD SW(VT=0.5 RON={RON} ROFF={ROFF})
.ends dpsw3